US05128417
Preparation of 3-Methylbutene-1/Butene-1 Copolymer
The procedure of Preparation Example 2 was repeated wherein triethylaluminum was used as a co-catalyst in place of diisobutylaluminum chloride. The polymer thus obtained had a melting point of 287° C. and a melt viscosity (as determined at 330° C. after addition of 0.2 part of Irganox 1010 and 0.2 part of Irgafos PEPQ) of 3×103 poises.

reactant | triethylaluminum | C(C)[Al](CC)CC
reactant | diisobutylaluminum chloride | [Cl-].C(C(C)C)[Al+]CC(C)C
reactant | Irganox 1010 | CC(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)CCC(=O)OCC(COC(=O)CCC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)(COC(=O)CCC3=CC(=C(C(=C3)C(C)(C)C)O)C(C)(C)C)COC(=O)CCC4=CC(=C(C(=C4)C(C)(C)C)O)C(C)(C)C | C73H108O12
reactant | Irgafos PEPQ | CC(C)(C)C1=CC(=C(C=C1)OP(C2=CC=C(C=C2)C3=CC=C(C=C3)P(OC4=C(C=C(C=C4)C(C)(C)C)C(C)(C)C)OC5=C(C=C(C=C5)C(C)(C)C)C(C)(C)C)OC6=C(C=C(C=C6)C(C)(C)C)C(C)(C)C)C(C)(C)C | C68H92O4P2
product | 3-Methylbutene-1 Butene-1 | CC(C)C=C.CCC=C | InChI=1S/C5H10.C4H8/c1-4-5(2)3;1-3-4-2/h4-5H,1H2,2-3H3;3H,1,4H2,2H3
